Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left foot ___ digit infection
 
Major Surgical or Invasive Procedure:
___ - LLE Diagnostic Angiogram
___ - Left second toe partial amputation 

 
History of Present Illness:
___ PMH Afib on Eliquis, HTN, HLD, T2DM, CKD, PVD w/ ___ tibial
disease (RLE angio ___ w/o interventions) w/ L ___ toe ulcer
currently admitted to the vascular service, patient underwent a
diagnostic angiogram was found to have a one vessel runoff via
peroneal artery.  Patient was recently admitted to the hospital
last week was found to have a left second digit infection.  
Digit
improved on IV antibiotics but there is a small erosion noted on
the distal concerning for osteomyelitis.  In conjunction with 
the
medicine team, it was agreed patient will be discharged on oral
antibiotics and return for his angiogram on ___.  Patient
will now be transferred to the podiatric surgery service for a
distal phalangectomy scheduled for ___.  Patient states he
overall is doing well, he states the toe is still somewhat
painful but is improved from his initial presentation.  Overall
he is doing well.  He denies any current fevers, chills, nausea,
vomiting.
 
Past Medical History:
Atrial fibrillation 
Colonic adenoma 
Neuropathy, peripheral 
Leukocytoclastic vasculitis likely ___ Hep C 
Chronic pain 
Gastric polyp 
CKD stage 3, GFR ___ ml/min 
?Chronic hepatitis C
Chronic gout of foot 
OSA 
Peripheral Artery Disease: S/P amputation of lesser toe, right
Type 2 diabetes mellitus with diabetic peripheral angiopathy and
gangrene, with long-term current use of insulin 
Age-related incipient cataract of both eyes 
 
Social History:
___
Family History:
Mother and sister with diabetes, and Mother with possible
cardiovascular disease.
 
Physical Exam:
Admission Physical Exam:   
Vitals: 
___ ___ Temp: 97.7 PO BP: 117/83 R Lying HR: 80 RR: 16 O2
sat: 94% O2 delivery: Ra 
General: A&Ox3, NAD  
Heart: RRR
Lungs: No resp distress, CTAB
Abd: Soft, non tender, non distended
Lower Extremity Focused Exam:  
Pulses nonpalpable cap refill less than 4 seconds all digits.
Left second digit with a distal full-thickness ulceration base. 
Used to probe deep.  Previous erythema and edema from last
admission is completely resolved.  No signs of any drainage. 
Area is mildly tender to palpation.  No signs of any proximal
streaking or malodor.

 
Pertinent Results:
___ 05:08AM BLOOD WBC-6.3 RBC-5.22 Hgb-16.3 Hct-50.1 MCV-96 
MCH-31.2 MCHC-32.5 RDW-13.3 RDWSD-46.8* Plt ___
___ 05:08AM BLOOD Plt ___
___ 05:08AM BLOOD Glucose-82 UreaN-29* Creat-1.4* Na-137 
K-4.7 Cl-102 HCO3-28 AnGap-7*
___ 08:50AM BLOOD Vanco-17.2

Micro: 
___ 11:09 am TISSUE
      BONE LEFT FOOT ___ DIGIT DISTAL PHALLANX. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary):

Imaging:
L FXR ___

IMPRESSION:  
Resolving soft tissue edema/postoperative changes over the 
second toe.  Exam otherwise unchanged. 

 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for left 
lower extremity angiogram, which the patient tolerated well. For 
full details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient was then 
transferred to the podiatric surgery service on ___ for further 
management and left ___ digit amputation on ___. Patient 
tolerated the procedure well and for all operative details, 
please see the operative report. The ___ hospital course 
was otherwise unremarkable. At the time of discharge the 
patient's pain was well controlled with oral medications, 
incisions were clean/dry/intact, and the patient was 
voiding/moving bowels spontaneously. The patient is WBAT in the 
left lower extremity. The patient will follow up with Dr. ___ 
___ Dr. ___ routine. A thorough discussion was had with 
the patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Lisinopril 5 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO QAM 
6. Metoprolol Succinate XL 50 mg PO QPM 
7. Multivitamins 1 TAB PO DAILY 
8. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

9. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
10. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
11. Sulfameth/Trimethoprim DS 1 TAB PO BID 
12. clomiPHENE citrate 50 mg oral 3X/WEEK 
13. Enoxaparin Sodium 110 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth q12hrs Disp 
#*20 Tablet Refills:*0 
2.  Clindamycin 300 mg PO QID 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth four times a 
day Disp #*40 Capsule Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Apixaban 5 mg PO BID  
5.  Atorvastatin 80 mg PO QPM  
6.  clomiPHENE citrate 50 mg oral 3X/WEEK  
7.  Lisinopril 5 mg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO QAM  
9.  Metoprolol Succinate XL 50 mg PO QPM  
10.  Multivitamins 1 TAB PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hrs Disp #*20 Tablet 
Refills:*0 
12.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Peripheral Vascular Disease with left second toe 
non-healing ulcer
Secondary: Afib on a/c, HTN, CKD stage 3 (GFR ___ ml/min), 
T2DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram and for your left second toe infection. 

Instructions Regarding Peripheral Angiogram:
 To do the test, a small puncture was made in one of your 
arteries.  The puncture site heals on its own: there are no 
stitches to remove.   Please follow the recommendations below to 
ensure a speedy and uneventful recovery.
Peripheral Angiography
Puncture Site Care
For one week:
-Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
-Use only mild soap and water to gently clean the area around 
the puncture site. 
-Gently pat the puncture site dry after showering. 
-Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 

Activity 
For the first 48 hours: 
- Do not drive for 48 hours after the procedure
For the first week:
-Do not lift, push , pull or carry anything heavier than 10 
pounds
-Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
- You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

For  Problems or Questions:
Call ___ in an emergency such as:
-Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
-Bleeding that is associated with nausea, weakness, or fainting.

Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
-Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
-Any change in sensation or temperature in your legs
-Fever of 101 or greater
-Any questions or concerns about recovery from your angiogram 

Instructions Regarding your Left Foot Surgery:

ACTIVITY:
There are restrictions on activity. Please remain heel weight 
bearing to your left foot until your follow up appointment. You 
should keep this site elevated when ever possible (above the 
level of the heart!) 

No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___